US04654360
1-Benzyl-2-aminoethylthio-3-methanesulfonylindole
2-Aminoethanethiol hydrochloride (0.419 g, 3.12 mmol) was added to a stirred suspension of sodium hydride (0.314 g, 50% in mineral oil, 6.56 mmol) in anhydrous dimethylformamide (30 ml) and after 1 hour, 1-benzyl-2-chloro-3-methylsulfonylindole (1.0 g, 3.29 mmol) was added. One half hour thereafter the solution was diluted with water, the product extracted with ether, the extract dried over sodium sulfate and evaporated in vacuo. The product was obtained as a solid, M.P.-95°-96°.

reactant | 2-Aminoethanethiol hydrochloride | 3.12 mmol, 0.419 g | Cl.NCCS
reactant | sodium hydride | 6.56 mmol, 0.314 g | [H-].[Na+]
reactant | 1-benzyl-2-chloro-3-methylsulfonylindole | 3.29 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)S(=O)(=O)C)Cl | C16H14ClNO2S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Benzyl-2-aminoethylthio-3-methanesulfonylindole | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)S(=O)(=O)C)SCCN | C18H20N2O2S2
